US05798353
To a solution of 0.38 g of the laevorotatory enantiomer of 3-amino-1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one in 10 ml of dimethylformamide, cooled to 50° C., are added 0.52 g of BOP and 0.19 g of indole-2-carboxylic acid, followed by 0.23 ml of triethylamine. The reaction mixture is stirred overnight at room temperature and is then poured into water and extracted with ethyl acetate, dried over sodium sulphate and evaporated to dryness. The product is purified by chromatography on a column of silica gel (eluent: dichlormethane/methanol: 95/5). The fractions of pure product are evaporated to dryness and the residue is crystallized from isopropyl ether. White crystals of (-)-N-[2,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-1H-indol-2-carboxamide are obtained, melting at 135° C.; Yield=81%; [α]D20 =-408 (c=0.35 in 1N HCl/CH3OH-50/50).

reactant | 3-amino-1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=C(C=C1OC)C)OC)C=CC=C2)C)=O | C19H21N3O3
reactant | BOP | 0.52 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | indole-2-carboxylic acid | 0.19 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (-)-N-[2,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-1H-indol-2-carboxamide | Yield=81% | COC1=C(C(=CC(=C1)C)OC)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)C=2NC1=CC=CC=C1C2 | C28H26N4O4
